US08293913B2
tert-butyl 5-(3-(4-fluorophenylsulfonyl)quinolin-8-yl)hexahydropyrrolo[3,4-b]pyrrole-1(2H)-carboxylate
The title compound was prepared by analogy to the procedure of Example 1.3, except using 3-(4-fluorophenylsulfonyl)-8-iodoquinoline and tert-butyl hexahydropyrrolo[3,4-b]pyrrole-1(2H)-carboxylate. 250 mg (69%) of the title compound were obtained as a pale yellow oil.

reactant | 3-(4-fluorophenylsulfonyl)-8-iodoquinoline | FC1=CC=C(C=C1)S(=O)(=O)C=1C=NC2=C(C=CC=C2C1)I | C15H9FINO2S
reactant | tert-butyl hexahydropyrrolo[3,4-b]pyrrole-1(2H)-carboxylate | N1(C2C(CC1)CNC2)C(=O)OC(C)(C)C | C11H20N2O2
product | tert-butyl 5-(3-(4-fluorophenylsulfonyl)quinolin-8-yl)hexahydropyrrolo[3,4-b]pyrrole-1(2H)-carboxylate | 250 mg, 69% | FC1=CC=C(C=C1)S(=O)(=O)C=1C=NC2=C(C=CC=C2C1)N1CC2N(CCC2C1)C(=O)OC(C)(C)C | C26H28FN3O4S
